datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(C)[n+:21]([H:20])c([S-])[n+]1C.N#CC(C(=O)[O-:10])c1ccccc1>>Cc1cc(C)[n:21]c([S-])[n+]1C.N#CC(C(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"C[NH+:21](CC(O)c1ccccc1)[H:20].Cc1ccccc1C(c1ccccc1C)=[N:10]CCCC[NH+](C)C>>C[NH:21]CC(O)c1ccccc1.Cc1ccccc1C(c1ccccc1C)=[N+:10](CCCC[NH+](C)C)[H:20] 10=20;20,21=21",
"C(Cc1nnn[n-]1)[NH2+]CC[NH:10]CCc1nnn[n-]1.[N-]=[N+]=Nc1ncnc2nc[n:21]([H:20])c12>>C(Cc1nnn[n-]1)[NH2+]CC[NH+:10](CCc1nnn[n-]1)[H:20].[N-]=[N+]=Nc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"Cc1ccc2[nH]c(CO)[n:10]c2c1.O=C/C(O)=C/[O:21][H:20]>>Cc1ccc2[nH]c(CO)[n+:10]([H:20])c2c1.O=C/C(O)=C/[O-:21] 10=20;20,21=21",
"CC[NH:10]c1ccccc1.[S-]CC[NH+:21](Cc1ccccc1)[H:20]>>CC[NH+:10](c1ccccc1)[H:20].[S-]CC[NH:21]Cc1ccccc1 10=20;20,21=21",
"COc1ccc([NH:10]c2ccccc2)cc1.Cc1cc(C)c(C(C(=O)[O:21][H:20])c2ccccc2)c(C)c1>>COc1ccc([NH+:10](c2ccccc2)[H:20])cc1.Cc1cc(C)c(C(C(=O)[O-:21])c2ccccc2)c(C)c1 10=20;20,21=21",
"CCCCCCCCOCC[N:10](C)C.Cc1ccc(S(=O)(=O)[N:21](C(CCC(N)=O)C(=O)[O-])[H:20])cc1>>CCCCCCCCOCC[N+:10](C)(C)[H:20].Cc1ccc(S(=O)(=O)[N-:21]C(CCC(N)=O)C(=O)[O-])cc1 10=20;20,21=21",
"O=C([O-])C1Cc2[nH]cnc2C[NH:10]1.O=C([O-])c1cccc([N+](=O)[O-])c1[O:21][H:20]>>O=C([O-])C1Cc2[nH]cnc2C[NH+:10]1[H:20].O=C([O-])c1cccc([N+](=O)[O-])c1[O-:21] 10=20;20,21=21",
"CC[C@H](C)[C@@H](C(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[C@H](C)[C@@H](C(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NCCc1ccc(O)c([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCc1ccc(O)c([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[NH:10][C@H]2CCCC[C@@H]21.O=C(CCc1c[nH]c[nH+]1)[O:21][H:20]>>C#C[C@]1(O)C[C@@H](C)[NH+:10]([H:20])[C@H]2CCCC[C@@H]21.O=C(CCc1c[nH]c[nH+]1)[O-:21] 10=20;20,21=21",
"CN1CCC[N:10](C)c2cccc3cccc1c23.Cc1cc(C(=C(C#N)C#N)[O:21][H:20])cc(C)c1O>>CN1CCC[N+:10](C)([H:20])c2cccc3cccc1c23.Cc1cc(C(=C(C#N)C#N)[O-:21])cc(C)c1O 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1 10=20;20,21=21",
"Cc1c(O)c(CO)c(CO)c[n+:21]1[H:20].Cc1cc(C)[n:10]c([S-])n1>>Cc1c(O)c(CO)c(CO)c[n:21]1.Cc1cc(C)[n+:10]([H:20])c([S-])n1 10=20;20,21=21",
"CCCC[N+:21](CCCC)(c1ccc([N+](=O)[O-])cc1)[H:20].CCCn1nn[n:10]c1N>>CCCC[N:21](CCCC)c1ccc([N+](=O)[O-])cc1.CCCn1nn[n+:10]([H:20])c1N 10=20;20,21=21",
"C[N+:21](C)(CCNC(=O)/C=N/[O-])[H:20].[O-]c1c2ncccc2nc[n:10]1>>C[N:21](C)CCNC(=O)/C=N/[O-].[O-]c1c2ncccc2nc[n+:10]1[H:20] 10=20;20,21=21",
"Oc1ccc2c(c1)Cc1cc([NH2:10])ccc1-2.c1cc([O:21][H:20])cn[nH+]1>>Oc1ccc2c(c1)Cc1cc([NH2+:10][H:20])ccc1-2.c1cc([O-:21])cn[nH+]1 10=20;20,21=21",
"CCC[NH+:21](CCN)[H:20].CNc1cccc[n:10]1>>CCC[NH:21]CCN.CNc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]C(=O)OCc2ccc([N+](=O)[O-])cc2)cc1.Nc1nc2[nH+]c[nH]c2c[n+:21]1[H:20]>>Cc1ccc(S(=O)(=O)[N:10](C(=O)OCc2ccc([N+](=O)[O-])cc2)[H:20])cc1.Nc1nc2[nH+]c[nH]c2c[n:21]1 10=20;20,21=21",
"CC(C(N)=O)S(=O)(=O)[NH-:10].CN(C)Cc1ccccc1[O:21][H:20]>>CC(C(N)=O)S(=O)(=O)[NH:10][H:20].CN(C)Cc1ccccc1[O-:21] 10=20;20,21=21",
"CCOC(=O)c1ccccc1-n1nc([O:21][H:20])cc1-c1ccccc1.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH-:10]>>CCOC(=O)c1ccccc1-n1nc([O-:21])cc1-c1ccccc1.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH:10][H:20] 10=20;20,21=21",
"CC[NH:10]CC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC[NH+:10](CC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"COc1c(C(=O)[O-:10])oc2ccccc12.O=C(O)C1=[N+:21]([H:20])C=CS1>>COc1c(C(=O)[O:10][H:20])oc2ccccc12.O=C(O)C1=[N:21]C=CS1 10=20;20,21=21",
"C[n+]1cc([O-:10])ccn1.O=C1NC(CC(=O)[O:21][H:20])Oc2ccccc21>>C[n+]1cc([O:10][H:20])ccn1.O=C1NC(CC(=O)[O-:21])Oc2ccccc21 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@]314.Cc1csc(c2ccc([N-:10]S(=O)(=O)c3ccc(N)cc3)cc2)n1>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H](C2)[N:21](C)CC[C@]314.Cc1csc(c2ccc([N:10](S(=O)(=O)c3ccc(N)cc3)[H:20])cc2)n1 10=20;20,21=21",
"Nc1ccc2ccc[n+:21]([H:20])c2c1.O=S(=O)(Nc1cnccn1)c1ccc([NH2:10])cc1>>Nc1ccc2ccc[n:21]c2c1.O=S(=O)(Nc1cnccn1)c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)(Cc1ccccc1)[NH2:10].N[N:21](C(=O)C1(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C1(F)F)[H:20]>>CC(C)(Cc1ccccc1)[NH2+:10][H:20].N[N-:21]C(=O)C1(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C1(F)F 10=20;20,21=21",
"C#CCCC[NH2+:21][H:20].CN(C)c1nc2ncncc2[n-:10]1>>C#CCCC[NH2:21].CN(C)c1nc2ncncc2[n:10]1[H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[O-]c1ccc([O-:10])cc1Cl>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[O-]c1ccc([O:10][H:20])cc1Cl 10=20;20,21=21",
"CC(C)(C)[O-:10].COC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].COC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"CCCCc1c(C)nn(-c2ccccc2)c1[O-:10].O=S(=O)(C(F)(F)Br)[NH:21][H:20]>>CCCCc1c(C)nn(-c2ccccc2)c1[O:10][H:20].O=S(=O)(C(F)(F)Br)[NH-:21] 10=20;20,21=21",
"C[NH2+]CCC[NH:10]C.Clc1[nH]c2cc3c(cc2[n+:21]1[H:20])CCCC3>>C[NH2+]CCC[NH+:10](C)[H:20].Clc1[nH]c2cc3c(cc2[n:21]1)CCCC3 10=20;20,21=21",
